US07951819B2
N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)benzenesulfonamide (CJS 3693)
Method K was used with 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one and benzenesulfonyl chloride to afford the title compound as a brown solid (25 mg, 50%). 1H-NMR (δ, ppm, DMSO-d6): ): 6.21 (s, 1H, HPy,5), 6.77 (s, 2H, Harom), 6.95 (s, 1H, Harom), 7.29 (s, 1H, Harom), 7.53-7.86 (m, 6H, Harom), 10.44 (s, 1H, NHSO2), 11.12 (s, 1H, NHPy3), 11.39 (s, 1H, NHPy2). 13C-NMR (δ, ppm, DMSO-d6): 106.39, 110.14, 113.74, 114.64, 115.83, 126.61, 129.33, 130.82, 133.09, 139.13, 139.36, 141.25, 144.12, 147.16, 154.15, 154.97. HRMS (EI): m/z [M+H] calcd for C18H15N4O4S: 383.0814; found: 383.0815.

reactant | 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one | NC=1C=C(OC2=C3C(=NC=C2)NC(N3)=O)C=CC1 | C12H10N4O2
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)benzenesulfonamide | 25 mg, 50% | O=C1NC=2C(=NC=CC2OC=2C=C(C=CC2)NS(=O)(=O)C2=CC=CC=C2)N1 | C18H14N4O4S
